US07915250B2
1-(Diphenylmethyl)-3-hydroxyazetidine-3-carboxylic acid (assume 3.90 mmol) was suspended in methanol (40 mL) and 4 N hydrochloric acid in dioxane (1 mL, 4 mmol) was added. 20 wt % Palladium hydroxide on carbon (100 mg) was added to the solution and the mixture was treated with hydrogen at 40 psi for 2 h. The mixture was filtered and the filtrate was concentrated in vacuo to afford 3-hydroxyazetidine-3-carboxylic acid hydrochloride which was dissolved in tetrahydrofuran (5 mL) and water (5 mL) and treated with potassium carbonate (1.615 g, 11.7 mmol) and di-tert-butyl dicarbonate (935 mg, 4.29 mmol) were added. The mixture was stirred at ambient for 17 h and then the mixture was partitioned between ethyl acetate and water. The aqueous portion was extracted with ethyl acetate and then was acidified to pH ˜3-4 and extracted twice more with ethyl acetate. The combined organic portion was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford 1-{[(1,1-dimethylethyl)oxy]carbonyl}-3-hydroxyazetidine-3-carboxylic acid which was dissolved in DMF (3 mL). Benzotriazol-1-yloxytris(pyrrolidino)phosphonium hexafluorophosphate (2.028 g, 3.90 mmol) and N,N-diisopropylethylamine (0.7 mL, 4.03 mmol) were added. The mixture was stirred at ambient for 5 minutes and then allylamine (0.6 mL, 8.03 mmol) was added and the mixture was stirred for 17 h. The mixture was partitioned between ethyl acetate and 5% lithium chloride. The organic portion was washed with 20% citric acid, saturated sodium bicarbonate and brine, then was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Column chromatography (silica gel, ethyl acetate) gave 1,1-dimethylethyl 3-hydroxy-3-[(prop-2-en-1-ylamino)carbonyl]azetidine-1-carboxylate (782 mg, 3.05 mmol, 78% yield from 1-(diphenylmethyl)-3-hydroxyazetidine-3-carboxamide). 1,1-Dimethylethyl 3-hydroxy-3-[(prop-2-en-1-ylamino)carbonyl]azetidine-1-carboxylate (782 mg, 3.05 mmol) was dissolved in methanol (10 mL) and 4 N hydrochloric acid in dioxane (2 mL, 8 mmol) was added. The mixture was refluxed for 15 minutes and then was concentrated in vacuo to afford 3-hydroxy-N-prop-2-en-1-ylazetidine-3-carboxamide hydrochloride (3.05 mmol).

reactant | 1,1-Dimethylethyl 3-hydroxy-3-[(prop-2-en-1-ylamino)carbonyl]azetidine-1-carboxylate | 3.05 mmol, 782 mg | OC1(CN(C1)C(=O)OC(C)(C)C)C(=O)NCC=C | C12H20N2O4
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | dioxane | 8 mmol, 2 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | 3-hydroxy-N-prop-2-en-1-ylazetidine-3-carboxamide hydrochloride | 3.05 mmol | Cl.OC1(CNC1)C(=O)NCC=C | InChI=1S/C7H12N2O2.ClH/c1-2-3-9-6(10)7(11)4-8-5-7;/h2,8,11H,1,3-5H2,(H,9,10);1H
